US07034039B2
A solution of tert-butyl(6-bromo-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate (0.48 g, 1 mmol), tri-n-butyl(2-pyridyl)tin (0.37 g, 1 mmol) and tetrakis(triphenylphosphine)palladium (58 mg, 0.05 mmol) in N,N-dimethylformamide (10 ml) was stirred at 100° C. for 10 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl[4-butoxy-2-isobutyl-1-oxo-6-(2-pyridyl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.36 g, 75.0%) as crystals.

reactant | tert-butyl(6-bromo-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 1 mmol, 0.48 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)Br)=O)CC(C)C)=O | C23H33BrN2O4
reactant | tri-n-butyl(2-pyridyl)tin | 1 mmol, 0.37 g | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.05 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl[4-butoxy-2-isobutyl-1-oxo-6-(2-pyridyl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.36 g, 75.0% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C1=NC=CC=C1)=O)CC(C)C)=O | C28H37N3O4
